US05756505
1-[4-(4-chlorobenzyloxy)-3-isobutylbenzoyl]-4-isobutylpiperazine
As in the case of Example 18, 1-(4-hydroxy-3-isobutylbenzoyl)-4-isobutylpiperazine (1.59 g) was benzylated with 4-chlorobenzyl bromide (1.03 g), thereby yielding 0.95 g of the aimed compound.

reactant | 1-(4-hydroxy-3-isobutylbenzoyl)-4-isobutylpiperazine | 1.59 g | OC1=C(C=C(C(=O)N2CCN(CC2)CC(C)C)C=C1)CC(C)C | C19H30N2O2
reactant | 4-chlorobenzyl bromide | 1.03 g | ClC1=CC=C(CBr)C=C1 | C7H6BrCl
product | 1-[4-(4-chlorobenzyloxy)-3-isobutylbenzoyl]-4-isobutylpiperazine | 0.95 g | ClC1=CC=C(COC2=C(C=C(C(=O)N3CCN(CC3)CC(C)C)C=C2)CC(C)C)C=C1 | C26H35ClN2O2
